* A - Anode of LED
* C - Cathode of LED
* A1 - Anode of photodetector 1
* C1 - Cathode of photodetector 1
* A2 - Anode of photodetector 2
* C2 - Cathode of photodetector 2
* K1 - Servo gain
* K2 - Forward gain
* K3 - Transfer gain
.Subckt IL300 A C A1 C1 A2 C2 PARAMS:  K1=0.007  K2=0.007   K3=1
* IL300 from Siemens   * RAP 5/97
DLED A E Demit
VE   E C 0
E2 D1 0 TABLE  ; {Ip2 vs IF}
+ {(0.955414823*0.999409809**(1/(abs(I(VE))+0.1p))*I(VE)**0.963133681)}
+ (0,0) (1,1)
Rdly1 D1 D2 1K
Cdly1 D2 0 0.17N
Rdly2 D2 D3 1K
Cdly2 D3 0 0.17N
Gdly1 C1 A1 VALUE {K1*V(D3)}
D1 A1 C1 Dtect
RD1 A1 C1 15G
Gdly2 C2 A2 VALUE {K3*K2*V(D3)}
D2 A2 C2 Dtect
RD2 A2 C2 15G
.model Demit D IS=1.51E-16 N=1.495822 RS=2.624361 BV=5 IBV=1U
+ CJO=15P VJ=1 M=0.5 EG=1.424 TT=500N
.model Dtect D IS=0.5p N=1 RS=0.001 BV=50 IBV=1U
+ CJO=14P VJ=0.159621 M=0.344264 EG=1.11 TT=10N
.ends
